US06734200B1
3-(4-(1-(2(S),3-Dihydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(S)-pyrazin-2-ylaminomethyloxazolidin-2-one
3-(4-(1-(2,2-Dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-(N-(t-butoxycarbonyl)pyrazin-2-ylaminomethyl)oxazolidin-2-one (400 mg, 0.65 mM) was dissolved in dichloromethane (4 ml) and treated with trifluoroacetic acid (4 ml) at ambient temperature. After stirring for 30 minutes at ambient temperature, water (0.8 ml) was added, and stirring continued for 2 hours. Solvent was removed, the residue dissolved in methanol (20 ml), and treated with aqueous ammonia to bring the pH to 8; solvent was removed, and the residue chromatographed on a 10 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 5 to 10% methanol in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (315 mg ). NMR (DMSO-d6) δ: 2.28 (br, 1H); 2.37 (br, 1H); 3.46 (m, 1H); 3.54 (m, 1H); 3.64 (t, 2H); 3.71 (m, 1H); 3.81 (dd, 1H); 4.10 (overlapping m, 4H); 4.36 (m, 1H); 4.71 (t, 1H); 4.89 (m, 1H); 5.01 (t, 1H); 5.85 (s, 1H); 7.32 (d, 2H); 7.43 (t, 1H); 7.70 (d, 1H); 1H); 7.99 (s, 1H). MS (ESP): 476 (MH+) for C22H23F2N5O5

reactant | 3-(4-(1-(2,2-Dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-(N-(t-butoxycarbonyl)pyrazin-2-ylaminomethyl)oxazolidin-2-one | 0.65 mM, 400 mg | CC1(OC[C@H](O1)C(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CN(C(=O)OC(C)(C)C)C1=NC=CN=C1)=O)F)C | C30H35F2N5O7
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 0.8 ml | O | H2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 3-(4-(1-(2(S),3-Dihydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(S)-pyrazin-2-ylaminomethyloxazolidin-2-one | 315 mg | O[C@H](C(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CNC1=NC=CN=C1)=O)F)CO | C22H23F2N5O5
